US04451283
To a solution of 2-methyl-3-methylthio-6-(m-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine (1.0 g) in methanol (10 ml), sodium methoxide (0.5 g) was added, and the resultant mixture was stirred at room temperature for 2 hours. After stirring, the resulting mixture was evaporated to dryness to give a crude product. Recrystallization of the crude product from acetone gave 0.85 g of 2-methyl-3-methoxy-6-(m-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine in 91% yield. M.P., 110° C.

reactant | 2-methyl-3-methylthio-6-(m-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine | 1.0 g | CN1N=C(C(N=C1SC)=O)C1=CC(=CC=C1)C | C12H13N3OS
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-methyl-3-methoxy-6-(m-methylphenyl)-5-oxo-2,5-dihydro-1,2,4-triazine | 0.85 g, 91% yield | CN1N=C(C(N=C1OC)=O)C1=CC(=CC=C1)C | C12H13N3O2
